Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
20 foot Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old male transferred from ___ for
evaluation of C6 and T1 fracture. He had 3 drinks last night and
went outside to smoke a cigarette at 2 AM, sitting on a ledge
with a 25 foot drop. He says he fell asleep while listening to
music and woke up ___ hours later having fallen off the ledge,
but does not remember the fall. He says he had bloody urination,
then crawled back up to the street level, flagging down a
bystander around 7 AM to call for an ambulance. 

At ___, a CT spine demonstrated C6 and T1
fractures. A CT abdomen and pelvis did not demonstrate any
abnormalities. He is now transferred to ___ for evaluation of
his spinal injuries. 

He is currently in ___ pain, with periumbilical pain, chest
tightness, neck and shoulder pain, back pain, and L thigh pain.
He feels he has to take very shallow breaths due to the chest
pain. 

 
Past Medical History:
PMH:
Generalized anxiety disorder / panic attacks
Asthma (childhood), not on any medications and no recent attacks

PSHx:
Rhinoplasty
Septoplasty
Tonsillectomy
Wisdom tooth extraction x 4

 
Social History:
SUBSTANCE ABUSE HISTORY:
Per CHA records pt was hostpizliaed x4 days in ___ for
EtOH detox, required 80 mg Valium in first ___ hours. He was
started on naltrexone during the admission and was discharged
home. maintained sobriety for some period of time while staying
with parents in ___

hx of heavy alcohol use, reported most recently to ___ that he
was drinking 1 L of gin/night, didn't drink during day while at
work, with prior hx of alcohol w/d seizures, he has also 
reported
seeing "people that weren't there" and hearing "chatter" 

Prior to detox admission in ___ reported he had been drinking
heavily for ___ years, fifth of liquor in 2 days, or 2 bottles
wine/day

FORENSIC HISTORY:
Arrests: unknown
Convictions and jail terms: unknown
Current status (pending charges, probation, parole): unknown

FAMILY PSYCHIATRIC HISTORY:
previously reported family members with opioid addiction 
previously reported cousin committed suicide

SOCIAL HISTORY:
___
Family History:
Non-Contributory
 
Physical Exam:
GENERAL: ___ J Collar and Brace in Place, Well Appearing 
Otherwise, AAOx3, NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist
CARDIOVASCULAR: RRR
PULSES: 2+ radial pulses b/l
PULMONARY: Breathing Comfortably on room air
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or peritoneal 
signs 
EXT/MS/SKIN: ___ Collar and Brace in place as above, 
extremities well perfused
NEUROLOGICAL: strength, and sensation grossly intact
 
Pertinent Results:
___ 04:34AM BLOOD WBC-4.4 RBC-4.04* Hgb-12.8* Hct-40.0 
MCV-99* MCH-31.7 MCHC-32.0 RDW-12.6 RDWSD-45.6 Plt ___
___ 01:30PM BLOOD Neuts-86.7* Lymphs-3.9* Monos-8.5 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.32 AbsLymp-0.24* 
AbsMono-0.52 AbsEos-0.02* AbsBaso-0.02
___ 04:34AM BLOOD Plt ___
___ 04:34AM BLOOD Glucose-91 UreaN-7 Na-139 K-3.7 Cl-100 
HCO3-25 AnGap-18
___ 04:34AM BLOOD CK(CPK)-218
___ 04:34AM BLOOD Calcium-9.6 Phos-4.4 Mg-2.0
___ 01:30PM BLOOD Triglyc-87 HDL-107 CHOL/HD-1.7 LDLcalc-63
___ 02:03PM BLOOD ___ Temp-37.7 pO2-202* pCO2-44 
pH-7.39 calTCO2-28 Base XS-1 Intubat-NOT INTUBA
 
Brief Hospital Course:
Following initial evaluation in the Emergency Department, the 
patient was admitted to the ACS Team and sent to the floor. 
Following extensive discussions with the Orthopedic Spine Team, 
the decision was made to undergo non-operative management of his 
non-displaced cervical and thoracic fractures. Subsequent MRI 
and CT Spine demonstrated stable T-Spine fractures without 
threatened injury to the spinal cord. The decision was made to 
treat these fractures non-operatively with a ___ J Cervical 
Collar and Brace (TLSO). There was also initial concern and 
management for rhabdomyolysis; CK was trended to a maximum of 
1352 and downtrended steadily to normal levels prior to 
discharge. He was treated with aggressive IVFR and his 
electrolytes and renal status were monitored on lab analysis 
daily. 

During the first two days of his admission, the patient became 
very agitated and given his history of alcohol abuse and 
dependence, went into alcohol withdrawal and delirium tremens. 
CIWA protocol was initiated but the patient remained agitated 
and unstable prompting a transfer from the floor to the TSICU to 
begin a Phenobarbital drip. Imaging Results and TSICU course as 
follows.

The following images were ordered and reviewed with the results 
listed below. 

OSH CT C-spine ___:
1. R T1 superior facet non-displaced fracture
2. R C6 transverse foramen non-displaced fracture

OSH CT Abd/pelvis: no renal trauma (laceration/hematoma) no RP 
hematoma, no free fluid in the pelvis, no free air; no e/o 
pelvic fx. the duodenum appears inflamed and thickened but with 
no adjacent stranding. 

OSH CT Head: no evidence of intracranial trauma or skull 
fracture

CTA neck ___ ___: 
Right nondisplaced fracture through the right transverse foramen 
at C6 without evidence of vascular injury. A fracture of the 
right transverse process and inferior articular facet at T1 is 
better evaluated on the CT C-spine ___. No 
dissection, aneurysm or thrombosis.

CT L spine ___ ___:
No fracture or malalignment in the lumbar spine. No significant 
degenerative disease. Small volume hyperdense pelvic fluid, 
slightly increased from prior CT exam, concerning for 
hemoperitoneum. Source of bleeding unknown.

CT chest ___ ___:
Multiple thoracic compression fractures (T3, T4, T5, T6 and T8) 
as well as nondisplaced sternal body fracture. Minimal contusion 
in the medial right lung base.

MRI Spine ___:
1. Study is moderately degraded by motion. 
2. Mild superior endplate compression fractures involving the C7 
through T6 
and T8 vertebral bodies without significant bony retropulsion. 
3. Cervical dorsal soft tissue edema with extension into 
interspinous spaces 
of C4 through T1 concerning for interspinous ligament injury. 
4. Widening of the interspinous interval at T5-T6 with subtle 
irregularity of 
the ligamentum flavum and interspinous ligament at this level 
concerning for 
ligamentous injury. 
5. Nonspecific edema of dorsal soft tissues overlying T1 through 
2 for 
vertebral bodies. 
6. Right C7 transverse foramen and right T1 superior facet 
fractures are 
better characterized on prior CT examination. 
7.  Within limits of study, no definite spinal cord signal 
abnormality. 
8. Right medial lung base contusion, as seen on CT. 
9. Mild cervical degenerative disc disease as described. 

TSICU Course of Events
___: Transferred to TICU from floor for severe alcohol 
withdrawal/delirium tremens. Psychiatry consulted - no acute 
need for ___, phenobarb loading/taper per ICU protocol, 
high-dose thiamine, folate, MVI, Haldol 5 mg IM/IV/PO for acute 
agitation. Required 5 mg IM Haldol, total 20 mg IV Haldol, 2 mg 
IM Lorazepam and total 4 mg IV Lorazepam. Phenobarbital loading 
dose given (10 mg/kg), required rescue dose of 5 mg/kg. QTc 414 
msec. OR cancelled for today - plan for OR with Dr. ___ 
___.

___: Foley removed. Patient assessed in ___ ___, alert and 
oriented, understands nature of injuries and reason for ICU 
admission. Patient denies SI or attempt at self harm. He reports 
that he is full code, designates his mother as his HCP. ICU 
consent signed. Ortho spine paged regarding plan for operative 
management, no response. Per ACS, Ortho Spine plans for 
non-operative management only (cancelled after updated read of 
spinal imaging).

___: Tolerating regular diet, on oral medications. Continued on 
phenobarb taper, transferred to floor. Ortho not to operate, 
will f/u as outpatient.

___: Patient doing well on the floor with no issues or 
complaints indicating EtOH withdrawal or delirium tremens. Final 
Psychiatry consult deemed the patient was stable and reliable to 
be discharged home with appropriate follow up regarding his EtOH 
dependence. Patient continues to tolerate oral intake, pain is 
controlled with oral pain medications, he is voiding and 
stooling normally. He is comfortably with the discharge 
instructions that were discussed with him and his mother who was 
present in room. He will follow up with ACS, Orthopedics Spine, 
Primary Care and Psychiatry as an outpatient. 
 
Medications on Admission:
Sertraline 25 mg PO qAM
Klonopin 0.5 mg PO qAM and 0.25 mg PO qPM

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*21 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [One Daily Multivitamin]  1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four (4) hours 
Disp #*20 Capsule Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth every eight (8) hours Disp #*10 Tablet Refills:*0 
5.  Thiamine 500 mg PO TID Duration: 24 Hours 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*12 Tablet Refills:*0 
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C7-T6, T8 compression Fractures, T1 facet Fracture, T5-6 
ligamentum flavum, intraspinous ligamentum injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACTIVITY:  
 *you will be discharged with your neck brace that should be 
left on until you follow up with the Orthopedic team as an 
outpatient in ___ weeks. You received brace teaching by the 
Orthopedics team at bedside. You do not need to be laying down 
flat to apply the brace. You should wear the brace whenever you 
are out of bed. You should wear the ___ J cervical collar at 
all times.

 o Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.  
 o You may climb stairs.  
 o You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  
 o Don't lift more than ___ lbs for 4 weeks. (This is about 
the weight of a briefcase or a bag of groceries.) This applies 
to lifting children, but they may sit on your lap.   
 
 HOW YOU MAY FEEL:  
 o You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.    
 o You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.  
 o You could have a poor appetite for a while. Food may seem 
unappealing.  
 o All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.  

  YOUR BOWELS:  
 o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.  
 o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  

 PAIN MANAGEMENT:  
 o It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".  
 o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 
 
 o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.  
 o Your pain medicine will work better if you take it before 
your pain gets too severe.  
 o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.  
 o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.  

 If you experience any of the following, please contact your 
surgeon:  
 - sharp pain or any severe pain that lasts several hours  
 - pain that is getting worse over time  
 - pain accompanied by fever of more than 101  
 - a drastic change in nature or quality of your pain
  
 MEDICATIONS:  
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.  
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.  
 
Followup Instructions:
___